US08003658B2
(5-1) Preparation of (2S)-2-(2-methoxy-acetylamino)-3-phenyl-propionic acid methylester
500 mg of 2-amino-3-phenyl-propionic acid methylester hydrochloride dissolved in 10 ml of chloroform was cooled to −78° C., 0.96 ml of triethylamine and 0.23 ml of methoxyacetylchloride were added thereto, and the solution was reacted at room temperature for 2 hours. The reacted solution dissolved in distilled water was adjusted to pH 9 by adding saturated sodium bicarbonate solution, extracted with organic solvent, dried over magnesium sulfate, and filtered and distilled under a reduced pressure to obtain the title compound (427 mg, 73%).

reactant | 2-amino-3-phenyl-propionic acid methylester hydrochloride | 500 mg | Cl.COC(C(CC1=CC=CC=C1)N)=O
reactant | triethylamine | 0.96 ml | C(C)N(CC)CC | C6H15N
reactant | methoxyacetylchloride | 0.23 ml | COCC(=O)Cl | C3H5ClO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | (2S)-2-(2-methoxy-acetylamino)-3-phenyl-propionic acid methylester | 427 mg, 73% | COC([C@H](CC1=CC=CC=C1)NC(COC)=O)=O | C13H17NO4
